US04284641
Preparation of 1-(cyclopentyl)imidazole
Imidazole (6.8 g, 0.1 mole) was dissolved in 100 ml of dry dimethylformamide (DMF). Sodium hydride, 50% dispersion in oil, (4.8 g, 0.1 mole) was added in small portions and the mixture was allowed to stir for 15 minutes. Cyclopentyl bromide (14.9 g, 0.1 mole) dissolved in 100 ml dry DMF was then added dropwise to the mixture which was kept under nitrogen and at about room temperature. Allowed to stir for a further 1 hour. When t.l.c. showed no further reaction, the mixture was poured onto approximately equal volume of water and shaken well. The product was then extracted with chloroform (3×200 ml) and dried over anhydrou MgSO4. The dry extract was evaporated down under vacuum. The DMF was then distilled off at 15 mmHg pressure to leave a yellowish oil. T.l.c. showed that the mixture was mainly product and an imidazole impurity, about 10 g nn on silica gel column with MeOH/EtOAC 1:9. Product fractions were combined and evaporated. Residual oil obtained was distilled under vacuum. B.pt. 67°-68° C./0.2 mm. Yield 2.0 g.

reactant | Imidazole | 0.1 mole, 6.8 g | N1C=NC=C1 | C3H4N2
reactant | Sodium hydride | [H-].[Na+]
reactant | Cyclopentyl bromide | 0.1 mole, 14.9 g | C1(CCCC1)Br | C5H9Br
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | DMF | 100 ml | CN(C=O)C | C3H7NO
solvent | MeOH | CO | CH4O
product | 1-(cyclopentyl)imidazole | C1(CCCC1)N1C=NC=C1 | C8H12N2
